US06525042B1
4-[4-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[2-(dimethylamino)ethylamino]carbonyl]piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide
In a similar manner to Example 4 except for the use of 4-[4-[[2-carboxy-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide and 2-(dimethylamino)ethylamine as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 4-[4-[[2-carboxy-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide | C(=O)(O)C1N(CCN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C27H22ClN3O6S
reactant | 2-(dimethylamino)ethylamine | CN(CCN)C | C4H12N2
product | 4-[4-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[2-(dimethylamino)ethylamino]carbonyl]piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-])C(=O)NCCN(C)C | C31H32ClN5O5S
